US09255093B2
To a pre-cooled (0° C.) solution of m-cresol (5.84 mL, 83 mmol) in 333 mL of DCE was added TFAA (16.75 mL, 119 mmol) over 20 min. Aluminum trichloride (36.2 g, 271 mmol) was then added portion-wise over 30 min. The reaction mixture was gradually warmed to room temperature over 2 hr and then heated at 40° C. for 19 hr. The reaction mixture was cooled to room temperature and poured over ice water. The resulting mixture was extracted with DCM (2×50 mL), the combined organic layers were washed with a sat. NaHCO3 solution (1500 mL), followed by a brine solution (1500 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by silica gel flash chromatography, 100% Heptane-5% Ethyl Acetate/95% Heptane) to give 2,2,2-trifluoro-1-(2-hydroxy-4-methylphenyl) ethanone (6.77 g). 1H NMR (400 MHz, CHLOROFORM-d) δ 2.41 (s, 3H), 6.82 (dd, J=8.5, 1.1 Hz, 1H), 6.90 (s, 1H), 7.70 (dq, J=8.5, 2.2 Hz, 1H), 11.11 (s, 1H).

reactant | m-cresol | 83 mmol, 5.84 mL | C1=C(C=CC=C1O)C | C7H8O
reactant | TFAA | 119 mmol, 16.75 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Aluminum trichloride | 271 mmol, 36.2 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | DCE | 333 mL | ClCCCl | C2H4Cl2
product | 2,2,2-trifluoro-1-(2-hydroxy-4-methylphenyl) ethanone | 6.77 g | FC(C(=O)C1=C(C=C(C=C1)C)O)(F)F | C9H7F3O2
